US05696112
5,6,7,8-Tetrahydro-4-[4-[[[(2-methylphenyl)amino]carbonyl]amino]benzoyl]-4H-thieno [3,2 -b]azepine
A mixture of 0.409 g of 4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno [3,2-b]azepine and 0.60 g of 2-methylphenylisocyanate in 2 ml of tetrahydrofuran is heated in an oil bath at 110° C. for 16 hours. The mixture is concentrated under vacuum and the residue chromatographed on preparative silica gel plates with ethyl acetate-hexane (1:1) as solvent to give a solid. Crystallization from ethyl acetate-hexane gives 0.33 g of white crystals, m.p. 179°-182° C.

reactant | 4-(4-aminobenzoyl)-5,6,7,8-tetrahydro-4H-thieno [3,2-b]azepine | 0.409 g | NC1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H16N2OS
reactant | 2-methylphenylisocyanate | 0.60 g | CC1=C(C=CC=C1)N=C=O | C8H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-Tetrahydro-4-[4-[[[(2-methylphenyl)amino]carbonyl]amino]benzoyl]-4H-thieno [3,2 -b]azepine | 0.33 g | CC1=C(C=CC=C1)NC(=O)NC1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C23H23N3O2S
